US04532252
Reaction of 3-[4-(3-amino-5-bromopyrid-2-yl)butylamino]-4-methoxy-1,2,5-thiadiazole-1-oxide (0.56 g) with methanolic ammonia solution (50 ml) at room temperature overnight gave after chromatography on silica in chloroform and trituration with ether 3-[4-(3-amino-5-bromopyrid-2-yl)butylamino]-4-amino-1,2,5-thiadiazole-1-oxide (0.19 g) m.p. 105°-109° C.

reactant | 3-[4-(3-amino-5-bromopyrid-2-yl)butylamino]-4-methoxy-1,2,5-thiadiazole-1-oxide | 0.56 g | NC=1C(=NC=C(C1)Br)CCCCNC1=NS(N=C1OC)=O | C12H16BrN5O2S
reactant | ammonia | 50 ml | N | H3N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ether 3-[4-(3-amino-5-bromopyrid-2-yl)butylamino]-4-amino-1,2,5-thiadiazole-1-oxide | 0.19 g | CCOCC.NC=1C(=NC=C(C1)Br)CCCCNC1=NS(N=C1N)=O | InChI=1S/C11H15BrN6OS.C4H10O/c12-7-5-8(13)9(16-6-7)3-1-2-4-15-11-10(14)17-20(19)18-11;1-3-5-4-2/h5-6H,1-4,13H2,(H2,14,17)(H,15,18);3-4H2,1-2H3
